US09193693B2
Step 6. 3-(6-Methoxy-3,4-dihydroquinolin-1(2H)-yl)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(6-methoxy-3,4-dihydroquinolin-1(2H)-yl)-2-phenylquinoxaline-6-carboxylate (118 mg, 0.28 mmol, 1.00 equiv) in methanol (15 mL). This was followed by the addition of a solution of sodium hydroxide (55.6 mg, 1.39 mmol, 5.00 equiv) in water (2 mL) dropwise with stiffing. The resulting solution was stirred overnight at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with of H2O. The pH value of the aqueous solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting solids were collected by filtration. The crude product (100 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-1): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (60% CH3CN up to 75% in 8 min, up to 100% in 1.5 min); Detector, UV 220 254 nm. This resulted in 57 mg (40%) of 3-(6-methoxy-3,4-dihydroquinolin-1(2H)-yl)-2-phenylquinoxaline-6-carboxylic acid as a orange solid.

reactant | methyl 3-(6-methoxy-3,4-dihydroquinolin-1(2H)-yl)-2-phenylquinoxaline-6-carboxylate | 0.28 mmol, 118 mg, 1.00 equiv | COC=1C=C2CCCN(C2=CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C26H23N3O3
reactant | sodium hydroxide | 1.39 mmol, 55.6 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-(6-Methoxy-3,4-dihydroquinolin-1(2H)-yl)-2-phenylquinoxaline-6-carboxylic acid | COC=1C=C2CCCN(C2=CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C25H21N3O3
